US06495546B1
Under nitrogen, a solution of (2S)-1-(N-(3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-benzylamino]-3-phenoxy-2-propanol (150 mg), methyl chloroformate (29 μl), pyridine (25 μl) and catalytic amounts of 4-dimethylaminopyridine in dichloromethane (3 ml) was stirred at room temperature for 1.5 hours. The resulting mixture was poured into saturated aqueous sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1) to give (2S)-1-[N-(3-methoxycarbonylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-benzylamino]-3-phenoxy-2-propanol (158 mg).

reactant | (2S)-1-(N-(3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-benzylamino]-3-phenoxy-2-propanol | 150 mg | NC1=CC2=C(CCCC(C2)N(CC2=CC=CC=C2)C[C@@H](COC2=CC=CC=C2)O)C=C1 | C27H32N2O2
reactant | methyl chloroformate | 29 μl | ClC(=O)OC | C2H3ClO2
reactant | pyridine | 25 μl | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (2S)-1-[N-(3-methoxycarbonylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-benzylamino]-3-phenoxy-2-propanol | 158 mg | COC(=O)NC1=CC2=C(CCCC(C2)N(CC2=CC=CC=C2)C[C@@H](COC2=CC=CC=C2)O)C=C1 | C29H34N2O4
